US04283414
3-Phenoxybenzyl chloride (4.37 g), potassium fluoride (5.8 g), tri-n-butylhexadecylphosphonium bromide (1.2 g) and water (10 ml) were stirred for a period of 8 hours in a pressure bottle heated at a temperature of 130° C. The oil was separated and the aqueous phase was diluted with water and extracted with ethylene dichloride. The oil and ethylene dichloride extract were combined and the phosphonium salt was removed by chromatography over silica gel (15 g). The eluate was concentrated and distilled to give 3-phenoxybenzyl fluoride (1.96 g; 49%) b.p. 92°-95° C. at 0.3 mm Hg.

reactant | 3-Phenoxybenzyl chloride | 4.37 g | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | potassium fluoride | 5.8 g | [F-].[K+]
catalyst | tri-n-butylhexadecylphosphonium bromide | 1.2 g | [Br-].C(CCC)[P+](CCCCCCCCCCCCCCCC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
product | 3-phenoxybenzyl fluoride | 1.96 g, 49% | O(C1=CC=CC=C1)C=1C=C(CF)C=CC1 | C13H11FO
